*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.90e-06[uF]/250[V]
* Murata P/N :GQM2195C2E3R9CB12
* Property : C = 3.90e-06[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GQM2195C2E3R9CB12 Port1 Port2
C01 Port1 N01 3.90e-12
R01 Port1 N01 1.00e+10
L02 N01 N02 2.02e-10
R03 N02 N03 5.00e-02
L04 N03 N04 6.06e-12
R04 N03 N04 4.57e-01
C05 N04 N05 2.90e-12
L05 N04 N05 8.50e-11
C06 N05 Port2 4.52e-12
L06 N05 Port2 9.24e-11
R06 N05 Port2 2.92e+02
.ENDS GQM2195C2E3R9CB12
